US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethyl)benzenesulfonamide (CJS 3692)
Method K was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-(trifluoromethyl)benzenesulfonyl chloride to afford the title compound as an off-white solid (42 mg, 72%). 1H-NMR (δ, ppm, DMSO-d6): 6.19 (d, 1H, HPy,5, J=5.5 Hz), 6.78 (s, 1H, Harom), 6.86 (d, 1H, Harom, J=8.0 Hz), 6.98 (d, 1H, Harom, J=7.5 Hz), 7.31-7.35 (m, 1H, Harom), 7.74 (d, 1H, HPy,6, J=5.5 Hz), 7.82-7.85 (m, 1H, Harom), 7.96-8.06 (m, 4H, Harom), 10.57 (s, 1H, NHSO2), 11.13 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.21, 110.98, 113.74, 115.45, 116.59, 123.09, 123.24, 129.88, 130.68, 131.02, 131.08, 138.71, 138.72, 140.20, 141.16, 144.09, 147.21, 154.15, 155.04. HRMS (EI): m/z [M+H] calcd for C19H14F3N4O4S: 451.0688; found: 451.0687.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-(trifluoromethyl)benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethyl)benzenesulfonamide | 42 mg, 72% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)N1 | C19H13F3N4O4S
